US08912186B2
By a procedure similar to that of example 1.4, starting from commercial 4-trifluoromethyl-1,2-phenylenediamine and 3-(4-chlorophenyl)glutaric anhydride, 3-(4-chlorophenyl)-4-(5-trifluoromethyl-2-benzimidazolyl)butanoic acid•HCl was obtained as colourless solid.

reactant | 4-trifluoromethyl-1,2-phenylenediamine | FC(C1=CC(=C(C=C1)N)N)(F)F | C7H7F3N2
reactant | 3-(4-chlorophenyl)glutaric anhydride | ClC1=CC=C(C=C1)C1CC(=O)OC(C1)=O | C11H9ClO3
product | 3-(4-chlorophenyl)-4-(5-trifluoromethyl-2-benzimidazolyl)butanoic acid•HCl | ClC1=CC=C(C=C1)C(CC(=O)O)CC=1NC2=C(N1)C=CC(=C2)C(F)(F)F.Cl | InChI=1S/C18H14ClF3N2O2.ClH/c19-13-4-1-10(2-5-13)11(8-17(25)26)7-16-23-14-6-3-12(18(20,21)22)9-15(14)24-16;/h1-6,9,11H,7-8H2,(H,23,24)(H,25,26);1H
